US05114945
(i) 2-Methyl 1-(phenylmethyl) 3,4-dihydro-4-oxo-1,2(2H)-pyridinedicarboxylate
A solution of methyl glyoxylate (1.92 g) and (phenylmethyl) (triphenylphosphoranylidene)carbamate (6.00 g) in benzene (100 ml), was stirred at reflux under nitrogen, for 1 h. A solution of 1-methoxy-3-trimethylsilyloxybutadiene (5.00 g) in benzene (40 ml) was added and the resulting solution stirred at reflux, under nitrogen, for 18 h. The benzene was evaporated in vacuo, and the residue dissolved in tetrahydrofuran (100 ml), treated with 1M hydrochloric acid (10 ml) and stirred at 22° for 1 h. The solution was diluted with ethyl acetate (100 ml), water (40 ml) and the aqueous phase separated. The organic phase was washed with saturated aqueous sodium chloride, dried and evaporated. The residue was purified by chromatography eluting with ethyl acetate-hexane (1:1) to give the title compound as an oil (2.97 g).

reactant | methyl glyoxylate | 1.92 g | C(C=O)(=O)OC | C3H4O3
reactant | (phenylmethyl) (triphenylphosphoranylidene)carbamate | 6.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(OCC1=CC=CC=C1)=O | C26H22NO2P
reactant | 1-methoxy-3-trimethylsilyloxybutadiene | 5.00 g | COC=CC(=C)O[Si](C)(C)C | C8H16O2Si
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 2-Methyl 1-(phenylmethyl) 3,4-dihydro-4-oxo-1,2(2H)-pyridinedicarboxylate | 2.97 g | O=C1CC(N(C=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C15H15NO5
